US07625932B2
Preparation of 4-Bromo-1-methyl-1H-pyrazole-3-carbonitrile
Add sodium hydride (60 wt % oil dispersion, 700 mg, 17.5 mmol) in several portions under a nitrogen purge to a solution of 4-bromo-1H-pyrazole-3-carbonitrile (2.0 g, 11.6 mmol) in 15 mL of anhydrous DMF at 0° C. Stir the reaction at 0° C. for one hour. Add methyl iodide (0.9 mL, 14.5 mmol) to the mixture and allow to stir and come to room temperature over 1 hour. Pour into 100 mL of ice-water and stir for 15 minutes. Filter off the resulting solid and rinse with 20 mL of water. Dry the solid overnight. Chromatograph (1/9-1/3 EtOAc/hexanes) over silica gel to give the title compound as a white solid (1.38 g, 63%), along with a small amount (100 mg) of the regioisomeric bromide.

reactant | sodium hydride | 17.5 mmol, 700 mg | [H-].[Na+]
reactant | 4-bromo-1H-pyrazole-3-carbonitrile | 11.6 mmol, 2.0 g | BrC=1C(=NNC1)C#N | C4H2BrN3
reactant | methyl iodide | 14.5 mmol, 0.9 mL | CI | CH3I
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 4-Bromo-1-methyl-1H-pyrazole-3-carbonitrile | 1.38 g, 63% | BrC=1C(=NN(C1)C)C#N | C5H4BrN3
